US07005526B2
1-[2-(4-{2-[2-(E)-(4-Chloro-2-fluoro-phenyl)-vinyl]-oxazol-4-ylmethoxy}-phenylmethanesulfinyl)-ethyl]-1H-[1,2,3]triazole
To a solution of 320 mg (0.68 mmol) 1-[2-(4-{2-[2-(E)-(4-chloro-2-fluoro-phenyl)vinyl]-oxazol-4-ylmethoxy}-benzylsulfanyl)-ethyl]-1H-[1,2,3]triazole in 9 ml dichloromethane at −30° C. were added dropwise during 20 min 197 mg (0.88 mmol) 3-chloro-benzenecarboperoxoic acid dissolved in 9 ml ethyl acetate. After 1 hour stirring at 30° C. the mixture was allowed to warm up over night, stirred another 48 hours at room temperature, diluted with dichloromethane, washed with sodium bicarbonate solution, then with water, dried and evaporated. Elution from silica with ethyl acetate/methanol 20:1 furnished as the second fraction 171 mg (51%) title compound as white solid.

reactant | 1-[2-(4-{2-[2-(E)-(4-chloro-2-fluoro-phenyl)vinyl]-oxazol-4-ylmethoxy}-benzylsulfanyl)-ethyl]-1H-[1,2,3]triazole | 0.68 mmol, 320 mg | ClC1=CC(=C(C=C1)/C=C/C=1OC=C(N1)COC1=CC=C(CSCCN2N=NC=C2)C=C1)F | C23H20ClFN4O2S
reactant | 3-chloro-benzenecarboperoxoic acid | 0.88 mmol, 197 mg | ClC=1C=C(C=CC1)C(=O)OO | C7H5ClO3
solvent | dichloromethane | 9 ml | ClCCl | CH2Cl2
solvent | ethyl acetate | 9 ml | C(C)(=O)OCC | C4H8O2
product | 1-[2-(4-{2-[2-(E)-(4-Chloro-2-fluoro-phenyl)-vinyl]-oxazol-4-ylmethoxy}-phenylmethanesulfinyl)-ethyl]-1H-[1,2,3]triazole | 171 mg, 51% | ClC1=CC(=C(C=C1)/C=C/C=1OC=C(N1)COC1=CC=C(C=C1)CS(=O)CCN1N=NC=C1)F | C23H20ClFN4O3S
